US05071999
c) Ethyl N-(2-buten-1-yl)-N-(2-oxoethyl)-carbamate
111 g (0.48 mol) of ethyl N-(2-buten-1-yl)-N -(2,2-dimethoxyethyl)-carbamate are heated under reflux for three hours with 50 g of formic acid in 950 ml of water. The mixture is saturated with sodium chloride and extracted three times using 200 ml of methylene chloride each time. The organic phases are washed with sodium hydrogen carbonate solution until neutral, dried over magnesium sulphate and concentrated, and the residue is distilled.

reactant | ethyl N-(2-buten-1-yl)-N -(2,2-dimethoxyethyl)-carbamate | 0.48 mol, 111 g | C(C=CC)N(C(OCC)=O)CC(OC)OC | C11H21NO4
reactant | formic acid | 50 g | C(=O)O | CH2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 950 ml | O | H2O
product | Ethyl N-(2-buten-1-yl)-N-(2-oxoethyl)-carbamate | C(C=CC)N(C(OCC)=O)CC=O | C9H15NO3
